US08426602B2
2-([2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methylsulfanyl)-6-(3-hydroxyazetidin-1-yl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile
100 mg (0.206 mmol) of 2-chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile, together with 45 mg (0.411 mmol) of azetidin-3-ol hydrochloride and 53 mg (0.411 mmol) of N-ethyl-N-(1-methylethyl)propan-2-amine, were dissolved in 1.5 ml of THF. The mixture was stirred at room temperature for two hours, and the product was then purified by preparative HPLC (acetonitrile/water: 10:90→95:5, 0.1% TFA added). This gave 40 mg (37% of theory) of the target compound.

reactant | 2-chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile | 0.206 mmol, 100 mg | ClC1=NC(=C(C(=C1C#N)C1=CN=CS1)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C20H9Cl2N5S3
reactant | azetidin-3-ol hydrochloride | 0.411 mmol, 45 mg | Cl.N1CC(C1)O
reactant | N-ethyl-N-(1-methylethyl)propan-2-amine | 0.411 mmol, 53 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 2-([2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methylsulfanyl)-6-(3-hydroxyazetidin-1-yl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile | ClC1=CC=C(C=C1)C=1SC=C(N1)CSC1=NC(=C(C(=C1C#N)C1=CN=CS1)C#N)N1CC(C1)O | C23H15ClN6OS3
